US07186729B2
Step 3: 2-[(4-Chloro-benzyl)-pyrrolidin-3-yl-amino]-acetamide
A solution of 3-[carbamoylmethyl-(4-chloro-benzyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.49 g, 1.32 mmol) in dichloromethane cooled at 0° C. was treated with trifluoroacetic acid (20%). The resulting mixture was warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The combined organics were dried over sodium sulfate. The product was used without any further purification ESI-MS m/z: 267 (M+1), UV retention time: 0.82 min.

reactant | 3-[carbamoylmethyl-(4-chloro-benzyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.32 mmol, 0.49 g | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC1=CC=C(C=C1)Cl)CC(N)=O | C18H26ClN3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[(4-Chloro-benzyl)-pyrrolidin-3-yl-amino]-acetamide | ClC1=CC=C(CN(CC(=O)N)C2CNCC2)C=C1 | C13H18ClN3O
